US08378104B2
trans-4-{4-[7-amino-2-(1,2,3-benzothiadiazol-7-yl)-3-methylfuro[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol
A solution of 4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-chloro-3-methylfuro[2,3-c]pyridin-7-amine (20 mg, 0.043 mmol), 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3-benzothiadiazole (12.5 mg, 0.0477 mmol), and Pd(PPh3)4 (5.0 mg, 0.0043 mmol) in 1,4-dioxane (0.2 mL) and 1.0 M aqueous sodium carbonate (0.2 mL) was heated to 120° C. in a microwave for 60 min. The organic phase was separated, treated with 12 M aqueous HCl (0.071 mL) at 40° C. for 1 h, and then concentrated. Purification by ISCO chromatography (0 to 15% 7 N NH3/MeOH:DCM) followed by trituration from DCM:hexanes (˜5 mL, 1:1) and filtration afforded 5.3 mg (27%) of the title compound as an orange solid. 1H NMR (400 MHz, DMSO-d6): δ 8.83 (d, J=7.8 Hz, 1 H), 8.19 (d, J=6.8 Hz, 1 H), 7.90-8.03 (m, 2 H), 7.67 (s, 1 H), 7.58 (d, J=0.5 Hz, 1 H), 6.38 (s, 2 H), 4.67 (d, J=4.3 Hz, 1 H), 4.09-4.27 (m, 1 H), 3.42-3.60 (m, 1 H), 2.27 (s, 3 H), 2.06 (d, J=12.1 Hz, 2 H), 1.90-1.98 (m, 2 H), 1.77-1.90 (m, 2 H), 1.28-1.48 (m, 2 H); MS (ESI): 446.85, 448.96 [M+H]+; HPLC tR=2.51 min (ZQ3: polar—4 min).

reactant | 4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-chloro-3-methylfuro[2,3-c]pyridin-7-amine | 0.043 mmol, 20 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2C)Cl | C23H33ClN4O2Si
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3-benzothiadiazole | 0.0477 mmol, 12.5 mg | CC1(OB(OC1(C)C)C1=CC=CC=2N=NSC21)C | C12H15BN2O2S
solvent | 1,4-dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 1.0 M, 0.2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.0043 mmol, 5.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | trans-4-{4-[7-amino-2-(1,2,3-benzothiadiazol-7-yl)-3-methylfuro[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol | 5.3 mg, 27% | NC=1N=CC(=C2C1OC(=C2C)C2=CC=CC=1N=NSC12)C=1C=NN(C1)[C@@H]1CC[C@H](CC1)O | C23H22N6O2S
